US07320972B2
4-Bromosalicylaldehyde (4.02 g, 20.0 mmol) [prepared from 3-bromophenyl analogous to the procedure of Casiraghi, et. al. Journal of the Chemical Society, Perkin Transactions 1: Organic and Bio-Organic Chemistry (1978), 318-21] was dissolved in anhydrous N,N-dimethylformamide (13 mL). Potassium carbonate (3.9 g, 28.0 mmol) was added as a solid to give a yellow suspension. Allyl bromide (2.6 mL, 3.63 g, 30.0 mmol) was added via syringe. The reaction stirred for 17 h at room temperature and was then diluted with water and extracted three times with 1:1 ethyl acetate-hexane. The combined organic layers were washed with water (5×), brine, dried over sodium sulfate, filtered and concentrated to afford 2-(allyloxy)-4-bromobenzaldehyde (4.83 g, 100% yield) as a yellow solid which was used without further purification in the next step; Rf 0.38 (1:9 ethyl acetate-hexane); MS [M+H]+241.0.

reactant | 4-Bromosalicylaldehyde | 20.0 mmol, 4.02 g | BrC=1C=C(C(C=O)=CC1)O | C7H5BrO2
reactant | Potassium carbonate | 28.0 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Allyl bromide | 30.0 mmol, 2.6 mL, 3.63 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(allyloxy)-4-bromobenzaldehyde | 4.83 g, 100% yield | C(C=C)OC1=C(C=O)C=CC(=C1)Br | C10H9BrO2
